US07855297B2
To a solution of 6-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.75 g) in methanol (8.6 mL) were added 10% palladium-carbon (0.09 g) and ammonium formate (0.44 g), and the mixture was stirred at room temperature for 24 hr. The reaction mixture was filtrated, and the solvent was evaporated. The obtained crude crystals were recrystallized from a mixed solvent of ethyl acetate and hexane to give N-[(4-dimethylaminophenyl)methyl]-6-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.23 g). melting point: 169-171° C.

reactant | 6-benzyloxy-N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.75 g | C(C1=CC=CC=C1)OC=1C=C2CCCC(C2=CC1)C(=O)N(C1=CC=C(C=C1)C(C)C)CC1=CC=C(C=C1)N(C)C | C36H40N2O2
reactant | ammonium formate | 0.44 g | C(=O)[O-].[NH4+]
solvent | methanol | 8.6 mL | CO | CH4O
catalyst | palladium-carbon | 0.09 g | [C].[Pd]
product | N-[(4-dimethylaminophenyl)methyl]-6-hydroxy-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.23 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCCC2=CC(=CC=C12)O)C1=CC=C(C=C1)C(C)C)C | C29H34N2O2
